US07745484B2
Iodine (0.0140 g, 0.0553 mmol) was added to zinc (0.542 g, 8.29 mmol) and the solid mixture was heated under vacuum for 10 minutes. The flask was flushed with nitrogen three times and allowed to cool. DMF (0.5 mL, degassed with nitrogen) was added and the suspension was cooled to 0° C. and stirred while (R)-methyl 2-(tert-butoxycarbonyl)-3-iodopropanoate (1.82 g, 5.53 mmol) in DMF (2.8 mL) was added dropwise. The mixture was stirred for 30 minutes at 0° C. and then allowed to come to RT for 30 minutes. 1-Iodo-4-(trifluoromethyl)benzene (1.50 g, 5.53 mmol), tris(dibenzylideneacetone)dipalladium (0.101 g, 0.111 mmol), and dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl (S-Phos) (0.182 g, 0.442 mmol) were added. The flask was purged with nitrogen and heated at 40° C. After 3 hours the reaction was allowed to cool and partitioned between EtOAc and an aqueous solution of ˜9:1 saturated ammonium chloride/ammonium hydroxide. The aqueous layer was extracted with EtOAc and the combined organic layers were washed with water, brine, and dried over sodium sulfate. Concentration and purification by silica gel chromatography (6:1 Hexanes/EtOAc) afforded (S)-methyl 2-(tert-butoxycarbonyl)-3-(4-(trifluoromethyl)phenyl)propanoate.

reactant | Iodine | 0.0553 mmol, 0.0140 g | II | I2
reactant | (R)-methyl 2-(tert-butoxycarbonyl)-3-iodopropanoate | 5.53 mmol, 1.82 g | C(C)(C)(C)OC(=O)[C@@H](C(=O)OC)CI | C9H15IO4
reactant | 1-Iodo-4-(trifluoromethyl)benzene | 5.53 mmol, 1.50 g | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
reactant | dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl | 0.442 mmol, 0.182 g | C1(CCCCC1)P(C1CCCCC1)C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC | C26H35O2P
solvent | DMF | 2.8 mL | CN(C)C=O | C3H7NO
catalyst | zinc | 8.29 mmol, 0.542 g | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium | 0.111 mmol, 0.101 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-methyl 2-(tert-butoxycarbonyl)-3-(4-(trifluoromethyl)phenyl)propanoate | C(C)(C)(C)OC(=O)[C@H](C(=O)OC)CC1=CC=C(C=C1)C(F)(F)F | C16H19F3O4
